US05319123
To a solution of 2.8 grams (10.6 mmol) of N-(2-hydroxy-ethoxy)-4-pivaloylbenzamide in 5 ml of methylene chloride and 3 ml of pyridine at 0° C. are added 3.92 grams (12.7 mmol) of ρ-anisylchlorodiphenylmethane. The mixture is warmed to room temperature over two hours and then diluted with 40 ml of methylene chloride. This solution is washed with 50 ml of 10% sodium bicarbonate and 30 ml of brine, dried over magnesium sulfate and concentrated by evaporation. The residue is purified by column chromatography using 5:1 hexane/ethyl acetate as the eluent to obtain the protected product, N-(2-[ρ-anisyldiphenylmethyloxy]ethoxy)-4-pivaloylbenzamide.

reactant | N-(2-hydroxy-ethoxy)-4-pivaloylbenzamide | 10.6 mmol, 2.8 grams | OCCONC(C1=CC=C(C=C1)C(C(C)(C)C)=O)=O | C14H19NO4
reactant | ρ-anisylchlorodiphenylmethane | 12.7 mmol, 3.92 grams | C(C1=CC=C(C=C1)OC)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C21H19ClO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | N-(2-[ρ-anisyldiphenylmethyloxy]ethoxy)-4-pivaloylbenzamide | C(C1=CC=C(C=C1)OC)C(OCCONC(C1=CC=C(C=C1)C(C(C)(C)C)=O)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H37NO5
